US04146630
2-Methyl-3-nitro-5-tert.-butylphenyl benzyl ether
This is obtained, by reacting 2-methyl-3-nitro-5-tert.-butylphenol with benzyl chloride in dimethylformamide in the presence of potassium carbonate at 80° C., in the form of yellowish crystals; m.p. 77°-79° C.

reactant | 2-methyl-3-nitro-5-tert.-butylphenol | CC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)O | C11H15NO3
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Methyl-3-nitro-5-tert.-butylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])C | C18H21NO3
